US06716861B2
tert-butyl (3R)-6-cyclohexyl-3-{3-[(1H-pyrazol-3-ylamino)methyl]-1,2,4-oxadiazol-5-yl}hexanoate
Method as for preparation 5 using tert-butyl (3R)-6-cyclohexyl-3-[3-({[(4-methylphenyl)sulfonyl]oxy}methyl)-1,2,4-oxadiazol-5-yl]hexanoate (preparation 177) (500 mg, 0.99 mmol) and 3-aminopyrazole (249 mg, 2.97 mmol) as starting materials.

reactant | tert-butyl (3R)-6-cyclohexyl-3-[3-({[(4-methylphenyl)sulfonyl]oxy}methyl)-1,2,4-oxadiazol-5-yl]hexanoate | 0.99 mmol, 500 mg | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)COS(=O)(=O)C1=CC=C(C=C1)C | C26H38N2O6S
reactant | 3-aminopyrazole | 2.97 mmol, 249 mg | NC1=NNC=C1 | C3H5N3
product | tert-butyl (3R)-6-cyclohexyl-3-{3-[(1H-pyrazol-3-ylamino)methyl]-1,2,4-oxadiazol-5-yl}hexanoate | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)CNC1=NNC=C1 | C22H35N5O3
